US06265349B1
Preparation of 3-(2-bromomethyl-7-chloro-5-fluorobenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone (Compound No. 4-7)
0.98 g (2.72 mmol) of 3-(7-chloro-5-fluoro-2-methylbenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone was dissolved in 25 ml of carbon tetrachloride, and 0.51 g (2.86 mmol) of NBS and 0.04 g (0.27 mmol) of 2,2′-azobisisobutyronitrile were added thereto, followed by refluxing for 2 hours. Succinic acid imide was removed by filtration. Then, carbon tetrachloride was distilled off under reduced pressure, and the obtained residue was poured into water and extracted with ethyl acetate. After washing with water, the organic layer was dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure, and the obtained crude crystals were washed with n-hexane to obtain 0.94 g (yield: 79%) of the desired product. Melting point: 142-144° C. 1H-NMR (300 MHz, CDCl3) δ value: 3.73(3H,s), 4.56(2H,s), 6.66(1H,s), 6.80(1H,d), 7.20(1H,d), 7.55(1H,d)ppm.

reactant | 3-(7-chloro-5-fluoro-2-methylbenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone | 2.72 mmol, 0.98 g | ClC1=CC(=C(C=2C=C(OC21)C)C=2C(N(C(=CC2)C(F)(F)F)C)=O)F | C16H10ClF4NO2
reactant | NBS | 2.86 mmol, 0.51 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 0.27 mmol, 0.04 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(2-bromomethyl-7-chloro-5-fluorobenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone | 0.94 g, yield: 79% | BrCC=1OC2=C(C1)C(=C(C=C2Cl)F)C=2C(N(C(=CC2)C(F)(F)F)C)=O | C16H9BrClF4NO2
